US04096267
Step A: [1-Oxo-2-(4-chlorosulfonylphenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid
(1-Oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetic acid (0.50 g., 0.0014 mole) is added portionwise with stirring to chlorosulfonic acid (5 ml.) in an ice-water bath. The reaction mixture is stirred at 0° C. for 2 hours, left to come to ambient temperature for 2 hours, then slowly added to crushed ice to precipitate 0.51 g. of [1-oxo-2-(b 4-chlorosulfonylphenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid which melts at 209°-210° C. after crystallization from acetic acid:water, 3:2.

reactant | (1-Oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetic acid | 0.0014 mole, 0.50 g | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C1=CC=CC=C1)C | C18H14Cl2O4
reactant | chlorosulfonic acid | 5 ml | ClS(=O)(=O)O | ClHO3S
product | [1-Oxo-2-(4-chlorosulfonylphenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C18H13Cl3O6S
